US03974162
N-(2,6-Dichloro-4-pyrimidinyl)glycine ethyl ester.
To a stirred mixture of 27.8 g. (0.2 mole) of glycine ethyl ester hydrochloride and 42.4 g. (0.4 mole) of sodium carbonate in 300 ml. of ethanol was added 36.6 g. (0.2 mole) of 2,4,6-trichloropyrimidine. After stirring at room temperature for 2 hours the mixture was filtered. The filtrate was diluted with 300 ml. of water and the precipitate thus formed was collected, dried, and triturated with 600 ml. of boiling petroleum ether. The insoluble material was filtered off and recrystallized from ethanol-petroleum ether to afford 4.7 g. of product, m.p. 89°-91°C.

reactant | glycine ethyl ester hydrochloride | 0.2 mole | Cl.C(C)OC(CN)=O
reactant | sodium carbonate | 0.4 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4,6-trichloropyrimidine | 0.2 mole | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
solvent | ethanol | C(C)O | C2H6O
product | N-(2,6-Dichloro-4-pyrimidinyl)glycine ethyl ester | C(C)OC(CNC1=NC(=NC(=C1)Cl)Cl)=O | C8H9Cl2N3O2
